US05344843
A solution of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.50 g) and 2-chloromethylquinoline hydrochloride (0.60 g) were suspended in 6 mL of dimethylformamide and 60% sodium hydride (0.224 g) was added. When gas evolution ceased, the bath temperature was raised to 50° C. for 2 hours. The reaction mixture was quenched with 0.1 mL of acetic acid and was diluted with ethyl acetate (75 mL). The mixture was washed with water (2×25 mL) and brine (1×25 mL), dried (MgSO4) and chromatographed over 100 g of silica gel, eluting with dichoromethane-ethyl acetate (50: 1) to give 0.39 g of 4-[(2-quinolinyl)methoxy]-alpha-oxobenzeneacetic acid methyl ester, mp 109°-110° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.50 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | 2-chloromethylquinoline hydrochloride | 0.60 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | sodium hydride | 0.224 g | [H-].[Na+]
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-[(2-quinolinyl)methoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.39 g | COC(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)=O | C19H15NO4
